US07038087B2
Synthesis of (R,R)-2-hydroxycyclopentanecarboxylic Hydrazide
To a 200-mL four-necked flask were added 18.47 g (128.1 mmol) of methyl (R,R)-2-hydroxycyclopentanecarboxylate and 75 mL of 2-propanol and stirring was started. Hydrazine monohydrate (12.83 g; 256.2 mmol) was dropped thereinto at 20° C. taking 1 hour and 30 minutes. After the dropping, the mixture was stirred at 85° C. for 15 hours. After the reaction, heating was stopped and the mixture was cooled to room temperature to precipitate the crystals. The crystals were filtered and washed with small amount of 2-propanol. The resulting crystals were dried to give 10.89 g of the title compound. The yield was 59%. Ratio of anti-form to syn-form of the compound was measured by a high-performance liquid chromatography (column: Inertsil ODS-3V) and found that the anti/syn ratio was more than 99/1.

reactant | methyl (R,R)-2-hydroxycyclopentanecarboxylate | 128.1 mmol, 18.47 g | O[C@H]1[C@@H](CCC1)C(=O)OC | C7H12O3
reactant | Hydrazine monohydrate | 256.2 mmol, 12.83 g | O.NN
solvent | 2-propanol | 75 mL | CC(C)O | C3H8O
product | (R,R)-2-hydroxycyclopentanecarboxylic Hydrazide | 10.89 g, yield was 59% | O[C@H]1[C@@H](CCC1)C(=O)NN | C6H12N2O2
